US07825253B2
rac-N5-Chroman-4-yl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=386.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3,4-dihydro-2H-chromen-4-ylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3,4-dihydro-2H-chromen-4-ylamine | O1CCC(C2=CC=CC=C12)N | C9H11NO
product | rac-N5-Chroman-4-yl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | O1CCC(C2=CC=CC=C12)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C24H23N3O2
